US04937253
(a) Benzhydryl 2-hydroxy-3-[(2-carboxyethyl)thio]-3-[2-(8-phenyloctyl)-phenyl]propanoate.
A partially dissolved mixture of 2-hydroxy-3-[(2-carboxyethyl)thio]-3-[2-(8-phenyloctyl)phenyl]propanoic acid prepared as in Example 20(c) (2.3 g, 5 mmol) in 25 ml of toluene was heated in an oil bath at 45° C. and stirred under argon while a solution of diphenyldiazomethane (1.02 g, 5.26 mmol) in 25 ml of toluene was added dropwise over a period of 20 minutes. The solvent was evaporated and the residue was flash chromatographed on silica gel (30% EtOAc/hexane, 1% HCO2H) to give the product.

reactant | 2-hydroxy-3-[(2-carboxyethyl)thio]-3-[2-(8-phenyloctyl)phenyl]propanoic acid | OC(C(=O)O)C(C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1)SCCC(=O)O | C26H34O5S
reactant | diphenyldiazomethane | 5.26 mmol, 1.02 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Benzhydryl 2-hydroxy-3-[(2-carboxyethyl)thio]-3-[2-(8-phenyloctyl)-phenyl]propanoate | OC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1)SCCC(=O)O | C39H44O5S
